### PR TITLE
C1 and lipschitz

### PR DESCRIPTION
**Pull request by IshiguroYoshihiro**
##### Motivation for this change

tentative definition C1

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [ ] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/realfun.v [hunk 1]
```diff
@@ -53,6 +55,54 @@ Qed.
 
 End derivable_oo_continuous_bnd.
 
+Section C1.
+Context {R : realType}.
+
+Definition C1 (a b : R) (f : R^o -> R^o) :=
+  derivable_oo_continuous_bnd f a b /\
+  {within `[a, b], continuous f^`()}.
```
Comment (CohenCyril) [inline theories/realfun.v:63]: I do not think this is the "right definition". In order to define C1 on an open interval you only need 
`{in `]x, y[, forall x, derivable f x 1}` and `{within `[a, b], continuous f^`()}.` and if you want to define C1 on a closed interval, you actually need more than `derivable_oo_continuous_bnd f a b` because you need derivability on the border of the interval.
We need to generalize differentiability and derivability to take into account the potential subspace topology of the domain in order to have a general version.
@zstone1 @affeldt-aist

Comment (zstone1) [reply theories/realfun.v:63]: A good question. `g` could smooth in `U`, and `` `[extend U, g]`` could fail to be differentiable in `closure U`. I saw `|1-x|` as a good example of this.  Now if ``g^` `` is continuous in U, and the limits exist on the boundary, my intuition says you'll get `` `[extend U, g]`` is "continuously differentiable in the subspace `closure U`". But I certainly don't have a proof handy.

**Comment by affeldt-aist** [comment]
We tried a tentative fix for the definition of `C1`. We can mostly patch the lemma `C1_lipschitz`. The only remaining problem is to show:
```
dfa : derivable_right f a 1 (* cvg (h^-1 *: ((f \o shift a) h%:A - f a) @[h --> 0^'+]) *)
fa : f^`() x @[x --> a^'+] --> f^`() a
============================
(f x - f a) / (x - a) @[x --> a^'+] --> f^`() a
```
that looks like an exercise but whose solution has eluded us so far. :-(

**Comment by CohenCyril** [comment]
> We tried a tentative fix for the definition of `C1`. We can mostly patch the lemma `C1_lipschitz`. The only remaining problem is to show:
> 
> ```
> dfa : derivable_right f a 1 (* cvg (h^-1 *: ((f \o shift a) h%:A - f a) @[h --> 0^'+]) *)
> fa : f^`() x @[x --> a^'+] --> f^`() a
> ============================
> (f x - f a) / (x - a) @[x --> a^'+] --> f^`() a
> ```
> 
> that looks like an exercise but whose solution has eluded us so far. :-(

It's because it's false. ``f^`() a``  is the derivative of `f` at `a` only when it is derivable all around `a` (near `a^'`) here you only suppose derivability on the right of `a`...
we need either a separte notion of right derivative, or derivability wrt a restricted topology

**Comment by affeldt-aist** [comment]
For the record, I am just storing here code from a PR that has just been closed (https://github.com/hoheinzollern/analysis/pull/4) (this actually duplicates some code that is inside the draft PR of this conversation) @IshiguroYoshihiro :
```coq
Definition C1 (a b : R) (f : R^o -> R^o) :=
  derivable_oo_continuous_bnd f a b /\
  {within `[a, b], continuous f^`()}.

Lemma C1_is_lipschitz (a b : R) (f : R^o -> R^o) :
  C1 a b f -> [lipschitz f x | x in `[a, b]].
Proof.
move=> [df cf]; have [|ab] := leP b a.
  rewrite le_eqVlt => /predU1P [->|ba].
    by rewrite set_itvE; exact: lipschitz_set1.
  by rewrite set_itv_ge ?bnd_simp -?ltNge//; exact: lipschitz_set0.
have : {within `[a, b], continuous (fun x => `|f^`() x|)}.
  by move=> x; apply: continuous_comp; [exact: cf|exact: norm_continuous].
move=> /(EVT_max (ltW ab))[c cab dfmax].
pose M := `|f^`() c|; apply: (@klipschitzW _ _ _ M).
  apply: (@globally_properfilter _ _ (a, a)); apply inferP.
  by rewrite /= in_itv /= lexx (ltW ab).
move=> [x y] /= [xab yab] /=.
wlog : x y xab yab / x < y.
  move=> h; have [|] := ltP x y; first exact: (h x y xab yab).
  rewrite le_eqVlt => /predU1P[->|]; first by rewrite !subrr normr0 mulr0.
  by rewrite distrC (distrC x); exact: (h y x yab xab).
move=> xy.
have xydf (z : R) : z \in `]x, y[ -> differentiable f z.
  move=> zxy; apply/derivable1_diffP.
  move: df => [+ _ _]; apply.
  have xyabo : `]x, y[ `<=` `]a, b[.
    move=> d /= dxy; move: dxy xab yab; rewrite !in_itv/=.
    move=> /andP[xz zy]/andP[ax xb] /andP[ay yb].
    by rewrite (le_lt_trans ax xz)//= (lt_le_trans zy yb).
  exact: xyabo.
have xyab : `[x, y] `<=` `[a, b].
  move=> d /= dxy; move: dxy xab yab; rewrite !in_itv/=.
  move=> /andP[xd dy]/andP[ax xb] /andP[ay yb].
  by rewrite (le_trans ax xd)//= (le_trans dy yb).
have: {within `[x, y], continuous f}.
  have /continuous_subspaceW := derivable_oo_continuous_bnd_within df.
  exact.
move=> /(MVT xy (fun z h => derivableP (diff_derivable (xydf z h))))[d dxy mvt].
rewrite distrC {}mvt -derive1E normrM (distrC y) ler_pmul//.
exact/dfmax/xyab/subset_itv_oo_cc.
Qed.
```
